US05288871
4-Methylphenyl benzoate
The synthesis of this compound proceeded in the same fashion as in Example 1 using 21.63 g (0.20 mol) of p-cresol, 22.26 g (0.22 mol) of triethylamine and 28.11 g (0.20 mol) of benzoyl chloride. The product amounted to 39.95 g, m.p. 66°-69° C.

reactant | p-cresol | 0.20 mol, 21.63 g | C1=CC(=CC=C1O)C | C7H8O
reactant | triethylamine | 0.22 mol, 22.26 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.20 mol, 28.11 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 4-Methylphenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C | C14H12O2
